US09085583B2
To a solution of methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (500 mg, 1.70 mmol) in tetrahydrofuran (10 mL), methanol (20 mL) and water (4 mL) was added lithium hydroxide (163 mg, 6.80 mmol). The resultant reaction mixture was stirred at 60° C. for 48 hours. The mixture was concentrated in vacuo. Then the residue was diluted with water (40 mL) and slowly acidified with 1N hydrogen chloride to pH=4-5. The mixture was extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated to give 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid as a white solid (400 mg, 84.0%).

reactant | methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.70 mmol, 500 mg | CC1=C(C=2C(=NC=CC2)N1C(C)C1=CC=CC=C1)C(=O)OC | C18H18N2O2
reactant | lithium hydroxide | 6.80 mmol, 163 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 400 mg, 84.0% | CC1=C(C=2C(=NC=CC2)N1C(C)C1=CC=CC=C1)C(=O)O | C17H16N2O2
